US06080839
The Synthesis of Methyl (4-ethynylphenoxy)acetate (2)
A solution of methyl (4-trimethylsilylethynylphenoxy)acetate (20.00 g, 76 mmol) in dichloromethane (400 mL) was deaerated with argon. Tetrabutylammonium fluoride 24.40 g, 91 mmol) was added, and the mixture was stirred for 30 min at ambient temperature. The solution was washed with 10% aqueous citric acid (200 mL), water (5×400 mL), dried over Na2SO4 and concentrated. The residue was dissolved in diethyl ether and passed through a column filled with silica gel. Evaporation of diethyl ether yielded the title compound as a solid (12.63 g, 83%) which was chromatographically and spectroscopically identical with material synthesized previously (Takalo, H., Hemmila, I., Sutela, T. and Latva, M, 1996, Helv. Chim. Acta, 79, 789). Rf (A) 0.50.

reactant | methyl (4-trimethylsilylethynylphenoxy)acetate | 76 mmol, 20.00 g | C[Si](C)(C)C#CC1=CC=C(OCC(=O)OC)C=C1 | C14H18O3Si
reactant | Tetrabutylammonium fluoride | 91 mmol, 24.40 g | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
product | Methyl (4-ethynylphenoxy)acetate | 12.63 g, 83% | C(#C)C1=CC=C(OCC(=O)OC)C=C1 | C11H10O3
